US08536179B2
To a suspension of 1,1-dimethylethyl 4-{5-[1-(1-methylethyl)-4-({[(6-methyl-2-oxo-4-propyl-1,2-dihydro-3-pyridinyl)methyl]amino}carbonyl)-1H-indol-6-yl]-2-pyridinyl}-1-piperazinecarboxylate (70 mg, 0.112 mmol) in dichloromethane (2 mL) was added TFA (0.5 ml, 6.49 mmol), and the mixture was stirred for 1 h. The mixture was concentrated and the residue was treated with saturated aqueous NaHCO3 solution and filtered. The solid was purified using column chromatography (silica gel, 0 to 15% (9:1 MeOH/NH4OH)/CH2Cl2) to give 1-isopropyl-N-((6-methyl-2-oxo-4-propyl-1,2-dihydropyridin-3-yl)methyl)-6-(6-(piperazin-1-yl)pyridin-3-yl)-1H-indole-4-carboxamide (51 mg, 84%) as off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.91 (m, 3H), 1.47 (d, J=4.00 Hz, 6H), 1.53-1.60 (m, 2H), 2.14 (s, 3H), 2.89-2.98 (m, 4H), 3.51-3.59 (m, 4H), 4.40 (d, J=5.05 Hz, 2H), 4.93 (quin, J=6.63 Hz, 1H), 5.92 (s, 1H), 6.87 (d, J=3.03 Hz, 1H), 6.94 (d, J=8.84 Hz, 1H), 7.60 (d, J=3.03 Hz, 1H), 7.66 (d, J=1.26 Hz, 1H), 7.88 (s, 1H), 8.00 (dd, J=8.84, 2.53 Hz, 1H), 8.28 (t, J=5.05 Hz, 1H), 8.58 (d, J=2.27 Hz, 1H). MS: (M+H)+=527.2.

reactant | 1,1-dimethylethyl 4-{5-[1-(1-methylethyl)-4-({[(6-methyl-2-oxo-4-propyl-1,2-dihydro-3-pyridinyl)methyl]amino}carbonyl)-1H-indol-6-yl]-2-pyridinyl}-1-piperazinecarboxylate | 0.112 mmol, 70 mg | CC(C)N1C=CC2=C(C=C(C=C12)C=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)C(=O)NCC=1C(NC(=CC1CCC)C)=O | C36H46N6O4
reactant | TFA | 6.49 mmol, 0.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 1-isopropyl-N-((6-methyl-2-oxo-4-propyl-1,2-dihydropyridin-3-yl)methyl)-6-(6-(piperazin-1-yl)pyridin-3-yl)-1H-indole-4-carboxamide | 51 mg, 84% | C(C)(C)N1C=CC=2C(=CC(=CC12)C=1C=NC(=CC1)N1CCNCC1)C(=O)NCC=1C(NC(=CC1CCC)C)=O | C31H38N6O2
